US07250515B2
Similar procedure as described in example 46d was used, starting from 4-chloro-3-cyano-quinoline-6-carboxylic acid ethyl ester, butylboronic acid, sodium carbonate and POPd to give 3-cyano-4-butyl-quinoline-6-carboxylic acid ethyl ester as a clear oil. LC-MS m/e 283 (MH+).

reactant | 4-chloro-3-cyano-quinoline-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C2C(=C(C=NC2=CC1)C#N)Cl | C13H9ClN2O2
reactant | butylboronic acid | C(CCC)B(O)O | C4H11BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3-cyano-4-butyl-quinoline-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C2C(=C(C=NC2=CC1)C#N)CCCC | C17H18N2O2
